US07700596B2
3-(3,4-Dichloro-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane Hydrochloric Acid Salt
A mixture of 3-(3,4-dichloro-phenyl)-9-methyl-3,9-diaza-bicyclo[3.3.1]nonane (0.50 g, 1.75 mmol), 2,2,2-trichloroethylchloroformate (1.11 g, 5.26 mmol) and toluene (30 ml) was stirred at reflux for 15 h. Water (30 ml) was added and the phases were separated. The organic phase was evaporated. Acetic acid (10 ml) and water (10 ml) and zinc powder (0.57 g, 8.8 mmol) was added. The mixture was stirred for 15 h. Aqueous sodium hydroxide (20 ml, 1 M) was added followed by extraction with dichloromethane (3×10 ml). The crude product was purified by silica get column chromatography using a solvent mixture of dichloromethane, methanol and aqueous ammonia (9:1:1%). Yield 150 mg (32%). The corresponding salt was obtained by addition a mixture of hydrogen chloride solved in diethylether (1 ml, 2 M). Mp 295.4° C. LC-ESI-HRMS of [M+H]+ shows 271.0769 Da. Calc. 271.076879 Da, dev. 0.1 ppm.

reactant | 3-(3,4-dichloro-phenyl)-9-methyl-3,9-diaza-bicyclo[3.3.1]nonane | 1.75 mmol, 0.50 g | ClC=1C=C(C=CC1Cl)N1CC2CCCC(C1)N2C | C14H18Cl2N2
reactant | 2,2,2-trichloroethylchloroformate | 5.26 mmol, 1.11 g | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium hydroxide | 1 M, 20 ml | [OH-].[Na+]
reactant | ammonia | N | H3N
reactant | hydrogen chloride | Cl | ClH
solvent | diethylether | 2 M, 1 ml | C(C)OCC | C4H10O
catalyst | zinc | 8.8 mmol, 0.57 g | [Zn] | Zn
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | Acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | Water | 30 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3,4-Dichloro-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane Hydrochloric Acid Salt | Cl.ClC=1C=C(C=CC1Cl)N1CC2CCCC(C1)N2 | InChI=1S/C13H16Cl2N2.ClH/c14-12-5-4-11(6-13(12)15)17-7-9-2-1-3-10(8-17)16-9;/h4-6,9-10,16H,1-3,7-8H2;1H
